2180-04-18 07:00:00 Physician Resident Progress Note
Chief Complaint: c/o thirst, denies pain, confused
   24 Hour Events:
   -Hepatology agreed that this is gleevec hepatotoxicity, so this was
   discontinued
   -Onc feels less convinced about gleevec hepatotox, (not sure if they
   know hepatology's assessment).  They have low suspicion for tumor lysis
   syndrome, but recommended starting allopurinol.
   -We monitored her lactates, which were steadily climbing, no changes in
   pH or [**Last Name (LF) 949**], [**First Name3 (LF) **] surgery did not want to do anything.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2180-4-17**] 02:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2180-4-18**] 03:26 AM
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2180-4-17**] 11:00 PM
   Heparin Sodium (Prophylaxis) - [**2180-4-18**] 02:00 AM
   Dextrose 50% - [**2180-4-18**] 03:03 AM
   Metoprolol - [**2180-4-18**] 04:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2180-4-18**] 06:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.1
C (97
   HR: 114 (114 - 134) bpm
   BP: 141/58(79) {110/40(60) - 158/83(93)} mmHg
   RR: 34 (16 - 37) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 61 Inch
             Total In:
                                                                 11,531 mL
                                                                    667 mL
   PO:
             450 mL
   TF:
   IVF:
                                                                  7,856 mL
                                                                    167 mL
   Blood products:
   Total out:
                                                                  4,560 mL
                                                                    570 mL
   Urine:
                                                                  2,670 mL
                                                                    420 mL
   NG:
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                  6,971 mL
                                                                     97 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: 7.38/25/140/14/-8
   Physical Examination
   Gen: NAD, confused
   Heent: OP dry
   Neck: supple
   CV: nl S1 S2, tachycardic
   Chest: CTA
   Abd: diminished BS, soft, VAC in place
   Neuro: A&O x 2, confused, slightly agitated, moves all 4, no asterixis
   or clonus
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   264 K/uL
   11.0 g/dL
   144 mg/dL
   1.7 mg/dL
   14 mEq/L
   3.1 mEq/L
   20 mg/dL
   114 mEq/L
   144 mEq/L
   34.2 %
   18.5 K/uL
        [image002.jpg]
                             [**2180-4-17**]  01:15 AM
                             [**2180-4-17**]  01:30 AM
                             [**2180-4-17**]  06:32 AM
                             [**2180-4-17**]  11:49 AM
                             [**2180-4-17**]  12:50 PM
                             [**2180-4-17**]  05:47 PM
                             [**2180-4-17**]  11:40 PM
   WBC
   21.5
   18.5
   Hct
   36.8
   35.4
   33.4
   34.2
   Plt
   272
   264
   Cr
   1.7
   1.7
   1.7
   TCO2
   15
   Glucose
   55
   28
   79
   89
   144
   Other labs: PT / PTT / INR:23.4/44.9/2.3, ALT / AST:67/150, Alk Phos /
   T Bili:195/4.6, Amylase / Lipase:/128, Lactic Acid:10.7 mmol/L,
   Albumin:2.7 g/dL, LDH:910 IU/L, Ca++:8.3 mg/dL, Mg++:1.9 mg/dL, PO4:5.2
   mg/dL
   Assessment and Plan
   44 yo F with PMH of HTN, asthma and GI stromal tumor s/p multiple
   surgeries and prolonged hospitalizations now presents with
   nausea/vomiting and lactic acidosis with encephalopathy and liver
   failure.
   # Liver Failure: Differential remains broad including most likely
   Gleevec toxicity per hepatology. Other potential etiologies include
   tumor burden, shock liver (unlikely given stable BP), alcohol but
   patient has no h/o etoh, other medication vs. non viral hepatitis ( in
   [**2-29**] negative Hep C and Hep B surface ab postive for immunity). Also,
   pt is  alpha-1-antitrypsin was positive in [**2-29**].
   -continue to trend LFTs
   -holding gleevac
   - f/up liver recs
   -hepatically dose meds
   -cont lactulose for encephalopathy (+confusion and asterixis)
   .
   # Nausea/Vomiting. Increasing today, unable to take Pos
   -          KUB
   -          Change meds to IV for now, pr lactulose
   # Leukocytosis: Remains elevated at ~18, has been persistently elevated
   over last admission. Patient with C.diff on treatment however no
   evidence of other infectious etiology. continue to cover broadly while
   culture are pending. Likely inflammatory response to turmor burden vs.
   liver failure. Also with h/o multiple infections in past including
   C.diff, [**Female First Name (un) **].
   -monitor WBC
   -CIS
   - continue vanco/zosyn for now
   - rx of underling c.diff
   # Tachycardia. Unclear etiology. Patient with baseline sinus tach. HR
   remains up to 130s despite volume repletion. Patient apparently
   transiently hypotensive but has remained with stable BP while in ICU.
   - monitor on tele
   - BP remains stable --consider bolus IVF is hypotensive/tachycardic
   - infectious w/up as above.
   # C. diff: diagnosed with positive toxin in stool on [**2180-4-4**]. Being
   treated with 2 week course of PO vancomycin per d/c summary to end
   [**2180-4-18**].
   -change to IV Flagyl for now given nausea/vomiting
   - touch base with surgery, ?why on PO vanco
   .
   # Anion gap acidosis: [**12-25**] to lactic acidosis in setting of hepatic
   failure--lactates continue to rise despite evidence of volume
   repletion. Ischemic bowel remains on differential h/o not c/w with exam
   and CT
   - patient may need to be intubated for acidosis
   - continue to trend lactates, AG and pH q 4  hrs
   - holding bicarb repletion for now given pt getting too much sodium
   - q 4 hrs lytes/ABG
   - will try to give bicarb bolus if needed and sodium stays stable
   .
   # ARF: likely related to poor perfusion. baseline was 0.6 for Cr. Cr
   now stable in 1.7 range.
   -follow daily Cr
   -monitor [**Month/Day (2) 949**] to keep above 30cc/hr
   -bolus IVF prn
   -renally dose meds
   .
   # Hypoglycemia. [**12-25**] to liver failure.
   - start D10 gtt with q2 hr FS
   .
   # GIST: tumor burden larger than 2 weeks ago on CT scan. Will discuss
   with surgery, continue to discuss with hepatology and oncology however
   current medical issues with lactic acidosis and hepatic failure will
   likely preclude current treatment. Onc feels that Gleevec may not be
   the cause for her current medical issues and would not want to
   eliminate this medication as a treatment option.
   - f/up onc recs --?use of Sutent
   - f/up liver recs--how certain are they that this is Gleevec toxicity,
   risk of retrial?
   - f/up surgery recs
   .
   # h/o asthma: continue nebs prn
   .
   # h/o HTN: currently not hypertensive. holding outpatient meds, can
   restart BB prn.
   .
   # Wound Care: As per surgery team, countinue wound vac.
   .
   # FEN: NPO for now. IVF off, bolus for hypotension, D10 drip for
   hypoglycemia.
   .
   # PPX: heparin SQ for DVT ppx- she has IVC filter as well, bowel reg,
   PPI
   .
   # Access: 2 PIVs, place A-line today, may need intubation and CVL today
   pending resp status and acidosis
   .
   # Code: full -confirmed with mother
   .
   # COMM: [**Name (NI) 53**], Mother [**Name (NI) **] [**Name (NI) 2019**] [**Telephone/Fax (1) 2020**], [**Telephone/Fax (1) 2021**]; Brother
   [**Name (NI) 2022**] [**Name (NI) 2019**] [**Telephone/Fax (1) 2023**]
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   18 Gauge - [**2180-4-17**] 02:30 AM
   20 Gauge - [**2180-4-17**] 11:01 PM
   Prophylaxis:
   DVT: IVC filter, Hep SC, boots
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU [**Last Name (un) 899**] of care

2180-04-19 07:54:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2180-4-18**] 03:45 PM
 MULTI LUMEN - START [**2180-4-18**] 09:13 PM
 ARTERIAL LINE - START [**2180-4-18**] 09:14 PM
 ARTERIAL LINE - START [**2180-4-19**] 01:36 AM
 ARTERIAL LINE - STOP [**2180-4-19**] 02:00 AM
    Apparent respiratory fatigue--> intubated
    A line, CVL placed
    Bladder pressure elevated (20-29)
    Ultrasound done overnight without signs of fluid collection
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2180-4-18**] 08:03 AM
   Metronidazole - [**2180-4-18**] 11:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2180-4-19**] 04:00 AM
   Infusions:
   Propofol - 50 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2180-4-18**] 08:02 AM
   Metoprolol - [**2180-4-18**] 08:02 AM
   Pantoprazole (Protonix) - [**2180-4-18**] 08:03 AM
   Dextrose 50% - [**2180-4-18**] 03:45 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2180-4-19**] 07:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.2
C (99
   HR: 126 (114 - 136) bpm
   BP: 101/47(61) {76/33(44) - 145/71(88)} mmHg
   RR: 28 (25 - 35) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 61 Inch
    CVP: 18 (9 - 18)mmHg
   Bladder pressure: 28 (21 - 29) mmHg
   Total In:
                                                                  3,715 mL
                                                                  1,176 mL
   PO:
                                                                    700 mL
   TF:
   IVF:
                                                                  2,384 mL
                                                                  1,176 mL
   Blood products:
                                                                    531 mL
   Total out:
                                                                  1,582 mL
                                                                    441 mL
   Urine:
                                                                    782 mL
                                                                     91 mL
   NG:
                                                                    400 mL
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                  2,133 mL
                                                                    735 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (450 - 500) mL
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 24 cmH2O
   Plateau: 17 cmH2O
   SpO2: 100%
   ABG: 7.41/24/219/13/-6
   Ve: 14.2 L/min
   PaO2 / FiO2: 547
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Distended, Firm, vertical incision, colostomy
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   203 K/uL
   9.2 g/dL
   155 mg/dL
   2.4 mg/dL
   13 mEq/L
   3.3 mEq/L
   21 mg/dL
   100 mEq/L
   143 mEq/L
   29.7 %
   17.2 K/uL
        [image002.jpg]
                             [**2180-4-18**]  03:11 PM
                             [**2180-4-18**]  04:00 PM
                             [**2180-4-18**]  06:19 PM
                             [**2180-4-18**]  07:17 PM
                             [**2180-4-18**]  09:01 PM
                             [**2180-4-18**]  10:53 PM
                             [**2180-4-19**]  01:44 AM
                             [**2180-4-19**]  04:04 AM
                             [**2180-4-19**]  05:57 AM
                             [**2180-4-19**]  06:09 AM
   WBC
   16.7
   17.7
   17.2
   Hct
   33
   29
   27.6
   28.4
   29.7
   Plt
   188
   196
   203
   Cr
   2.1
   2.1
   2.4
   TCO2
   10
   12
   15
   13
   13
   16
   Glucose
   44
   98
   266
   326
   306
   258
   155
   Other labs: PT / PTT / INR:26.0/49.8/2.6, ALT / AST:49/105, Alk Phos /
   T Bili:149/4.2, Amylase / Lipase:/128, Lactic Acid:15.6 mmol/L,
   Albumin:2.3 g/dL, LDH:713 IU/L, Ca++:8.4 mg/dL, Mg++:1.8 mg/dL, PO4:5.0
   mg/dL
   Assessment and Plan
   Assessment and Plan
   44 yo F with PMH of HTN, asthma and GI stromal tumor s/p multiple
   surgeries and prolonged hospitalizations here with lactic acidosis with
   encephalopathy and liver failure.
   # Liver Failure: Differential remains broad including Gleevec toxicity
   per hepatology. Other potential etiologies include tumor burden, shock
   liver, alcohol but patient has no h/o etoh, other medication vs. non
   viral hepatitis ( in [**2-29**] negative Hep C and Hep B surface ab postive
   for immunity). Also, pt is  alpha-1-antitrypsin was positive in [**2-29**].
   -continue to trend LFTs
   -holding gleevac
   - f/up liver recs
   -hepatically dose meds
   -cont lactulose for encephalopathy
   .
   # Nausea/Vomiting: Intubated with OG tube
   # Leukocytosis: Remains elevated at ~18, has been persistently elevated
   over last admission. Patient with C.diff on treatment however no
   evidence of other infectious etiology. Continue to cover broadly while
   cultures are pending. Likely inflammatory response/ cytokine storm to
   turmor burden vs. liver failure. Also with h/o multiple infections in
   past including C.diff, [**Female First Name (un) **].
   -monitor WBC- stable
   -CIS, Blood cx NGTD, Ucx negative,
   - continue vanco/zosyn for now
   - rx with flagyl for underling c.diff- stool negative x 1
   # Tachycardia. Unclear etiology. Patient with baseline sinus tach. HR
   remains up to 130s despite volume repletion. Patient apparently
   transiently hypotensive but has remained with stable BP while in ICU. ?
   if secondary to underlying infection.
   - monitor on tele
   - BP remains stable --consider bolus IVF if hypotensive/tachycardic
   - infectious w/up as above.
   # C. diff: diagnosed with positive toxin in stool on [**2180-4-4**]. Completed
   2 week course of PO vancomycin. Currently on flagyl.
   -Continue IV Flagyl
   .
   # Anion gap acidosis: [**12-25**] to lactic acidosis in setting of hepatic
   failure--lactates continue to rise despite evidence of volume
   repletion. Ischemic bowel remains on differential h/o not c/w with exam
   and CT
   - Intubated  for acidosis
   - continue to trend lactates, AG and pH q 4  hrs
   - holding bicarb repletion for now given pt getting too much sodium
   - q 4 hrs lytes/ABG
   - will try to give bicarb bolus if needed and sodium stays stable
   .
   # ARF: likely related to poor perfusion. baseline was 0.6 for Cr.
   Initially, with Cr of 2.2 improved with volume resuscitation. Improved
   to 1.7. Now rising to 2.4 from 1.7 yesterday. Elevated bladder pressure
   concerning for abdominal compartment syndrome, though not high
   enough
expect to be greater than 28.. Abdominal ultrasound with no
   evidence of ascites. No remark of hydronephrosis on report
   - ck urine lytes and renal ultrasound
   - empiric fluid bolus in setting of prerenal renal failure
    - discuss with surgery re ? abdominal compartment syndrome
   - follow daily Cr
   - monitor UOP to keep above 30cc/hr
   -renally dose meds
   .
   # Hypoglycemia. [**12-25**] to liver failure.
   - start D10 gtt with q2 hr FS
   .
   # GIST: tumor burden larger than 2 weeks ago on CT scan. Will discuss
   with surgery, continue to discuss with hepatology and oncology however
   current medical issues with lactic acidosis and hepatic failure will
   likely preclude current treatment. Onc feels that Gleevec may not be
   the cause for her current medical issues and would not want to
   eliminate this medication as a treatment option.
   - f/up onc recs --?use of Sutent
   - f/up liver recs--how certain are they that this is Gleevec toxicity,
   risk of retrial?
   - f/up surgery recs
   .
   # h/o asthma: continue nebs prn
   .
   # h/o HTN: currently not hypertensive. holding outpatient meds, can
   restart BB prn.
   .
   # Wound Care: As per surgery team, countinue wound vac.
   .
   # FEN: NPO for now. IVF off, bolus for hypotension, D10 drip for
   hypoglycemia.
   .
   # PPX: heparin SQ for DVT ppx- she has IVC filter as well, bowel reg,
   PPI
   .
   # Access: 2 PIVs, place A-line today, may need intubation and CVL today
   pending resp status and acidosis
   .
   # Code: full -confirmed with mother
   .
   # COMM: [**Name (NI) 53**], Mother [**Name (NI) **] [**Name (NI) 2019**] [**Telephone/Fax (1) 2020**], [**Telephone/Fax (1) 2021**]; Brother
   [**Name (NI) 2022**] [**Name (NI) 2019**] [**Telephone/Fax (1) 2023**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2180-4-17**] 02:30 AM
   Multi Lumen - [**2180-4-18**] 09:13 PM
   Arterial Line - [**2180-4-19**] 01:36 AM
   Prophylaxis:
   DVT: Heparin SC
   Stress ulcer:
   VAP: Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2180-04-20 06:13:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Bladder pressure stable around 20-23
   BP, CVP, UO low so attempted multiple fluid boluses.
   FS low 40. Started D5 gtt. Repeat 2 hrs later 66 therefore increased to
   D10
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2180-4-20**] 02:12 AM
   Piperacillin/Tazobactam (Zosyn) - [**2180-4-20**] 04:20 AM
   Vancomycin - [**2180-4-20**] 04:20 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2180-4-19**] 08:09 AM
   Dextrose 50% - [**2180-4-19**] 11:03 PM
   Heparin Sodium (Prophylaxis) - [**2180-4-20**] 12:47 AM
   Midazolam (Versed) - [**2180-4-20**] 04:00 AM
   Fentanyl - [**2180-4-20**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2180-4-20**] 06:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.7
C (99.9
   HR: 128 (123 - 143) bpm
   BP: 94/42(53) {88/33(47) - 130/65(81)} mmHg
   RR: 22 (20 - 29) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 61 Inch
    CVP: 10 (3 - 18)mmHg
   Bladder pressure: 26 (20 - 26) mmHg
   Total In:
                                                                 10,075 mL
                                                                  1,448 mL
   PO:
   TF:
   IVF:
                                                                  9,845 mL
                                                                  1,408 mL
   Blood products:
   Total out:
                                                                    768 mL
                                                                    464 mL
   Urine:
                                                                    268 mL
                                                                     64 mL
   NG:
                                                                    200 mL
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                  9,307 mL
                                                                    984 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500. (500 - 500) mL
   Vt (Spontaneous): 518 (518 - 518) mL
   RR (Set): 20.
   RR (Spontaneous): 0
   PEEP: 5. cmH2O
   FiO2: 30%.
   RSBI: 139
   PIP: 26 cmH2O
   Plateau: 20 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 100%
   ABG: 7.36/28/157/14/-7
   Ve: 13 L/min
   PaO2 / FiO2: 523
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, No(t) OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic),
   Tachycardic
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Distended, Firm, colostomy bag with brown stool, vertical
   incision with wound vac in place
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   110 K/uL
   8.7 g/dL
   71 mg/dL
   2.5 mg/dL
   14 mEq/L
   3.5 mEq/L
   20 mg/dL
   102 mEq/L
   143 mEq/L
   27.4 %
   16.3 K/uL
        [image002.jpg]
                             [**2180-4-19**]  05:57 AM
                             [**2180-4-19**]  06:09 AM
                             [**2180-4-19**]  10:15 AM
                             [**2180-4-19**]  11:39 AM
                             [**2180-4-19**]  03:41 PM
                             [**2180-4-19**]  04:50 PM
                             [**2180-4-19**]  08:15 PM
                             [**2180-4-19**]  08:35 PM
                             [**2180-4-20**]  02:23 AM
                             [**2180-4-20**]  04:07 AM
   WBC
   17.2
   16.3
   Hct
   29.7
   27.4
   Plt
   203
   110
   Cr
   2.4
   2.4
   2.5
   2.5
   2.5
   TCO2
   16
   15
   13
   16
   16
   Glucose
   155
   116
   78
   52
   66
   71
   Other labs: PT / PTT / INR:30.1/75.2/3.1, ALT / AST:37/77, Alk Phos / T
   Bili:121/3.9, Amylase / Lipase:24/56, Lactic Acid:14.8 mmol/L,
   Albumin:1.6 g/dL, LDH:672 IU/L, Ca++:8.4 mg/dL, Mg++:2.6 mg/dL, PO4:5.0
   mg/dL
   Assessment and Plan
   44 yo F with PMH of HTN, asthma and GI stromal tumor s/p multiple
   surgeries and prolonged hospitalizations here with lactic acidosis,
   oliguric renal failure and liver failure.
   # Anion gap acidosis: [**12-25**] to lactic acidosis and hepatic
   failure
lactate stable but elevated. Ischemic bowel remains on
   differential h/o not c/w with exam and CT.
   - Intubated  for acidosis
   - continue to trend lactates, AG and pH q 4  hrs
   - Giving bicarb and trending sodium
   - Avoid LR for fluid resucsitation
   - q 4 hrs lytes/ABG
   - discuss with renal need for dialysis (CVVH)
   .
   # Oliguric ARF: likely related to poor perfusion. baseline was 0.6 for
   Cr.  Initially, with Cr of 2.2 improved with volume resuscitation.
   Improved to 1.7. Now continues to rise. Elevated bladder pressure
   concerning for abdominal compartment syndrome, though pressure not high
   enough
expect to be greater than 28.. Abdominal ultrasound with no
   evidence of ascites. Renal u/s negative for hydronephrosis
   evidence of obstruction. Attempted fluid resuscitation. Patient
   received total of 10L in yesterday. UO barely 30cc/hr. FeNa consistent
   with intrinsic renal failure. [**Month (only) 60**] be ischemic vs toxic ATN. Urine
   sediment consistent with this.
   - F/u renal recs and possible utility of dialysis in this potentially
   treatable cancer
   - Would only continue fluid boluses for low BP as patient now appears
   volume overloaded
    - continue to trend cr and monitor lytes with repletion PRN
   - follow daily Cr
   -renally dose meds
   - may need temporary dialysis line. If so give 3 U FFP prior to line
   placement in setting of elevated INR.
   # Liver Failure: Differential remains broad including Gleevec toxicity
   per hepatology. Other potential etiologies include tumor burden, shock
   liver, alcohol but patient has no h/o etoh, other medication vs. non
   viral hepatitis ( in [**2-29**] negative Hep C and Hep B surface ab postive
   for immunity). Also, pt is  alpha-1-antitrypsin was positive in [**2-29**].
   -continue to trend LFTs/INR
   -holding gleevac
   - f/up liver recs
   -hepatically dose meds
    # Leukocytosis: Remains elevated at ~16.4, has been persistently
   elevated over last admission. Patient with C.diff on treatment however
   no evidence of other infectious etiology. Continue to cover broadly
   while cultures are pending. Likely inflammatory response/ cytokine
   storm vs. liver failure. Also with h/o multiple infections in past
   including C.diff, [**Female First Name (un) **]. BCX are NGTD.
   -monitor WBC- stable
   -CIS,
   - continue vanco/zosyn for now
   - rx with flagyl for underling c.diff- stool negative x 1
   # Tachycardia. Unclear etiology. Patient with baseline sinus tach. HR
   remains up to 130s despite volume repletion.  [**Month (only) 60**] be secondary to
   underlying infection vs cytokine storm. Have been holding beta blocker
   but patient was tachycardic while on this med so doubt rebound
   tachycardia.
   - monitor on tele
   - BP remains stable --consider bolus IVF if hypotensive/tachycardic
   - infectious w/up as above.
   # C. diff: diagnosed with positive toxin in stool on [**2180-4-4**]. Completed
   2 week course of PO vancomycin. Currently on flagyl.
   -Continue IV Flagyl
   .
   # Resp: Continuing hyperventilation to correct AG acidosis. Last ABG
   7.36. Consider increasing rate to improve acidemia.
   CVVH may facilitate extubation.
   .
   # Hypoglycemia. [**12-25**] to liver failure.  Patient with FS as low as 40
   yesterday
   - Continue D10 gtt with q2 hr FS
   - consult nutrition re TPN which may improve hypoglycemia.
   .
   # GIST: tumor burden larger than 2 weeks ago on CT scan. Current
   medical issues with lactic acidosis and hepatic failure will likely
   preclude current treatment.  Per Onc, continue holding Gleevec and
   would consider sutent when more medically stable.
   - f/up onc recs --?use of Sutent
   - f/up liver recs
 feel current clinical course consistent with tumor
   lysis secondary to Gleevec
   - f/up surgery recs
   .
   # h/o asthma: continue nebs prn
   .
   # h/o HTN: currently not hypertensive. holding outpatient meds, can
   restart BB if BP tolerates.
   .
   # Wound Care: As per surgery team, countinue wound vac.
   .
   # FEN: NPO for now.  Nutrition consult for TPN. Bolus for hypotension,
   D10 drip for hypoglycemia. Volume overloaded but oxygenating well. If
   attempt dialysis, can do ultrafiltration for  fluid removal at that
   time.  Goal CVP greater than 6. Plan to d/c gtt after starting TPN to
   limit fluid intake.
   .
   # PPX: heparin SQ for DVT ppx- she has IVC filter as well, PPI
   .
   # Access: 2 PIVs
   .
   # Code: full -confirmed with mother
   .
   # COMM: [**Name (NI) 53**], Mother [**Name (NI) **] [**Name (NI) 2019**] [**Telephone/Fax (1) 2020**], [**Telephone/Fax (1) 2021**]; Brother
   [**Name (NI) 2022**] [**Name (NI) 2019**] [**Telephone/Fax (1) 2023**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2180-4-17**] 02:30 AM
   Multi Lumen - [**2180-4-18**] 09:13 PM
   Arterial Line - [**2180-4-19**] 01:36 AM
   Prophylaxis:
   DVT:  heparin sc
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2180-04-21 07:04:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 DIALYSIS CATHETER - START [**2180-4-20**] 04:30 PM
   per onc / renal / surgery okay to start Gleevec 100mg in a.m. per NGT
   HD line placed, in brachiocephalic vein, okay per renal
   3 units FFP given prior to line placement
   CVVH started: 7 hours in machine broke (MN, restarted 5 a.m.)
   ET tube on CXR for line plcmt noted to be 6 cm above carina- advanced
   and reimaged- in good position upon repeat CXR
   Platelets repeated given drop from 203 to 110, repeat 109.
   Bladder pressure 3 p.m. 20
   No hepatology recs
   CVP > 6 consistently
   Vanc IV and Zosyn d/c'd- will continue on IV flagyl and PO vancomycin
   BG consistently in 60s despite TPN, D10 w/ 150meq restarted at lower
   rate of 37.5cc/hr x 1 liter, [**11-24**] amp of D50 given
   WBC up to 20 from 15, afebrile, cultures sent: blood and urine.
   Plts down from 109 to 86, PT and PTT increasing- FDP and Fibrinogen and
   repeat PT/PTT sent, a.m. heparin sc for DVT PPX held
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2180-4-20**] 04:44 PM
   Metronidazole - [**2180-4-21**] 02:49 AM
   Vancomycin - [**2180-4-21**] 04:03 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2180-4-20**] 08:29 AM
   Dextrose 50% - [**2180-4-20**] 08:30 PM
   Heparin Sodium (Prophylaxis) - [**2180-4-21**] 12:15 AM
   Midazolam (Versed) - [**2180-4-21**] 05:00 AM
   Fentanyl - [**2180-4-21**] 05:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2180-4-21**] 07:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.4
C (97.6
   HR: 129 (124 - 136) bpm
   BP: 101/38(52) {85/33(51) - 134/81(94)} mmHg
   RR: 26 (20 - 27) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 61 Inch
    CVP: 15 (8 - 18)mmHg
   Bladder pressure: 18 (15 - 20) mmHg
   Total In:
                                                                  4,914 mL
                                                                    916 mL
   PO:
   TF:
   IVF:
                                                                  3,622 mL
                                                                    633 mL
   Blood products:
                                                                    851 mL
   Total out:
                                                                  1,563 mL
                                                                    626 mL
   Urine:
                                                                    302 mL
                                                                     76 mL
   NG:
                                                                    300 mL
   Stool:
   Drains:
   Balance:
                                                                  3,351 mL
                                                                    290 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 20
   RR (Spontaneous): 6
   PEEP: 5 cmH2O
   FiO2: 30%
   PIP: 26 cmH2O
   Plateau: 20 cmH2O
   SpO2: 100%
   ABG: 7.31/27/127/13/-11
   Ve: 12.8 L/min
   PaO2 / FiO2: 423
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), tachycardic
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: No(t) Bowel sounds present, Distended, Firm
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   86 K/uL
   8.2 g/dL
   67 mg/dL
   2.3 mg/dL
   13 mEq/L
   4.1 mEq/L
   16 mg/dL
   99 mEq/L
   140 mEq/L
   26.9 %
   20.4 K/uL
        [image002.jpg]
                             [**2180-4-20**]  02:23 AM
                             [**2180-4-20**]  04:07 AM
                             [**2180-4-20**]  02:22 PM
                             [**2180-4-20**]  02:39 PM
                             [**2180-4-20**]  04:53 PM
                             [**2180-4-20**]  05:04 PM
                             [**2180-4-21**]  12:00 AM
                             [**2180-4-21**]  12:16 AM
                             [**2180-4-21**]  04:14 AM
                             [**2180-4-21**]  05:12 AM
   WBC
   16.3
   15.9
   20.4
   Hct
   27.4
   25.4
   25.8
   26.9
   Plt
   110
   109
   86
   Cr
   2.5
   2.7
   2.8
   2.3
   TCO2
   16
   16
   15
   15
   14
   Glucose
   66
   71
   81
   43
   67
   67
   Other labs: PT / PTT / INR:37.1/104.9/4.0, ALT / AST:28/65, Alk Phos /
   T Bili:119/4.9, Amylase / Lipase:24/56, Differential-Neuts:84.4 %,
   Lymph:10.1 %, Mono:5.0 %, Eos:0.2 %, Fibrinogen:116 mg/dL, Lactic
   Acid:14.4 mmol/L, Albumin:1.6 g/dL, LDH:748 IU/L, Ca++:8.8 mg/dL,
   Mg++:2.2 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
   44 yo F with PMH of HTN, asthma and GI stromal tumor s/p multiple
   surgeries and prolonged hospitalizations here with lactic acidosis,
   oliguric renal failure and liver failure.
   # Anion gap acidosis: [**12-25**] to lactic acidosis and hepatic
   failure
lactate stable but elevated. Ischemic bowel remains on
   differential h/o not c/w with exam and CT.
   - Intubated  for acidosis
   - continue to trend lactates, AG and pH q 4  hrs
   - Giving bicarb and trending sodium
   - Avoid LR for fluid resucsitation
   - q 4 hrs lytes/ABG
   - discuss with renal need for dialysis (CVVH)
   .
   # Oliguric ARF: likely related to poor perfusion. baseline was 0.6 for
   Cr.  Initially, with Cr of 2.2 improved with volume resuscitation.
   Improved to 1.7. Now continues to rise. Elevated bladder pressure
   concerning for abdominal compartment syndrome, though pressure not high
   enough
expect to be greater than 28.. Abdominal ultrasound with no
   evidence of ascites. Renal u/s negative for hydronephrosis
   evidence of obstruction. Attempted fluid resuscitation. Patient
   received total of 10L in yesterday. UO barely 30cc/hr. FeNa consistent
   with intrinsic renal failure. [**Month (only) 60**] be ischemic vs toxic ATN. Urine
   sediment consistent with this.
   - F/u renal recs and possible utility of dialysis in this potentially
   treatable cancer
   - Would only continue fluid boluses for low BP as patient now appears
   volume overloaded
    - continue to trend cr and monitor lytes with repletion PRN
   - follow daily Cr
   -renally dose meds
   - may need temporary dialysis line. If so give 3 U FFP prior to line
   placement in setting of elevated INR.
   # Liver Failure: Differential remains broad including Gleevec toxicity
   per hepatology. Other potential etiologies include tumor burden, shock
   liver, alcohol but patient has no h/o etoh, other medication vs. non
   viral hepatitis ( in [**2-29**] negative Hep C and Hep B surface ab postive
   for immunity). Also, pt is  alpha-1-antitrypsin was positive in [**2-29**].
   -continue to trend LFTs/INR
   -holding gleevac
   - f/up liver recs
   -hepatically dose meds
    # Leukocytosis: Remains elevated at ~16.4, has been persistently
   elevated over last admission. Patient with C.diff on treatment however
   no evidence of other infectious etiology. Continue to cover broadly
   while cultures are pending. Likely inflammatory response/ cytokine
   storm vs. liver failure. Also with h/o multiple infections in past
   including C.diff, [**Female First Name (un) **]. BCX are NGTD.
   -monitor WBC- stable
   -CIS,
   - continue vanco/zosyn for now
   - rx with flagyl for underling c.diff- stool negative x 1
   # Tachycardia. Unclear etiology. Patient with baseline sinus tach. HR
   remains up to 130s despite volume repletion.  [**Month (only) 60**] be secondary to
   underlying infection vs cytokine storm. Have been holding beta blocker
   but patient was tachycardic while on this med so doubt rebound
   tachycardia.
   - monitor on tele
   - BP remains stable --consider bolus IVF if hypotensive/tachycardic
   - infectious w/up as above.
   # C. diff: diagnosed with positive toxin in stool on [**2180-4-4**]. Completed
   2 week course of PO vancomycin. Currently on flagyl.
   -Continue IV Flagyl
   .
   # Resp: Continuing hyperventilation to correct AG acidosis. Last ABG
   7.36. Consider increasing rate to improve acidemia.
   CVVH may facilitate extubation.
   .
   # Hypoglycemia. [**12-25**] to liver failure.  Patient with FS as low as 40
   yesterday
   - Continue D10 gtt with q2 hr FS
   - consult nutrition re TPN which may improve hypoglycemia.
   # GIST: tumor burden larger than 2 weeks ago on CT scan. Current
   medical issues with lactic acidosis and hepatic failure will likely
   preclude current treatment.  Per Onc, continue holding Gleevec and
   would consider sutent when more medically stable.
   - f/up onc recs --?use of Sutent
   - f/up liver recs
 feel current clinical course consistent with tumor
   lysis secondary to Gleevec
   - f/up surgery recs
   .
   # h/o asthma: continue nebs prn
   .
   # h/o HTN: currently not hypertensive. holding outpatient meds, can
   restart BB if BP tolerates.
   .
   # Wound Care: As per surgery team, countinue wound vac.
   .
   # FEN: NPO for now.  Nutrition consult for TPN. Bolus for hypotension,
   D10 drip for hypoglycemia. Volume overloaded but oxygenating well. If
   attempt dialysis, can do ultrafiltration for  fluid removal at that
   time.  Goal CVP greater than 6. Plan to d/c gtt after starting TPN to
   limit fluid intake.
   .
   # PPX: heparin SQ for DVT ppx- she has IVC filter as well, PPI
   .
   # Access: 2 PIVs
   .
   # Code: full -confirmed with mother
    .
   # COMM: [**Name (NI) 53**], Mother [**Name (NI) **] [**Name (NI) 2019**] [**Telephone/Fax (1) 2020**], [**Telephone/Fax (1) 2021**]; Brother
   [**Name (NI) 2022**] [**Name (NI) 2019**] [**Telephone/Fax (1) 2023**]
   ICU Care
   Nutrition:
   TPN without Lipids - [**2180-4-20**] 06:15 PM 41 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2180-4-17**] 02:30 AM
   Multi Lumen - [**2180-4-18**] 09:13 PM
   Arterial Line - [**2180-4-19**] 01:36 AM
   Dialysis Catheter - [**2180-4-20**] 04:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2180-04-22 07:10:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Pt received Gleevec in am
   Family meeting & meeting w/ consults took place over plan for Gleevec,
   teams in aggreement to continue with treatment as it is the best chance
   for pt. DIC labs relatively stable but INR continues to climb, now 6
   HIT sent
   Pt developed hyperglycemia - FS 200s-450s - was started on insulin gtt
   as no response to SC, dialysate solution changed from D5 to prisma. Pt
   with increasing acidemia
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2180-4-20**] 04:44 PM
   Vancomycin - [**2180-4-21**] 05:00 PM
   Metronidazole - [**2180-4-22**] 01:17 AM
   Infusions:
   Insulin - Regular - 10 units/hour
   Other ICU medications:
   Fentanyl - [**2180-4-21**] 11:00 PM
   Midazolam (Versed) - [**2180-4-22**] 03:07 AM
   Insulin - Regular - [**2180-4-22**] 04:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2180-4-22**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.9
C (96.7
   Tcurrent: 35.9
C (96.7
   HR: 137 (118 - 137) bpm
   BP: 100/60(72) {56/25(36) - 114/62(78)} mmHg
   RR: 27 (17 - 28) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 61 Inch
    CVP: 9 (4 - 13)mmHg
   Total In:
                                                                  3,870 mL
                                                                  1,934 mL
   PO:
   TF:
   IVF:
                                                                  2,578 mL
                                                                  1,511 mL
   Blood products:
   Total out:
                                                                  4,221 mL
                                                                  1,765 mL
   Urine:
                                                                    119 mL
                                                                    255 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -351 mL
                                                                    169 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 500) mL
   Vt (Spontaneous): 233 (233 - 233) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 113
   PIP: 25 cmH2O
   Plateau: 21 cmH2O
   SpO2: 100%
   ABG: 7.53/35/107/30/7
   Ve: 10 L/min
   PaO2 / FiO2: 357
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), tachycardic
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Extremities: Right: 3+, Left: 3+
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   60 K/uL
   8.2 g/dL
   579 mg/dL
   1.6 mg/dL
   30 mEq/L
   2.4 mEq/L
   10 mg/dL
   81 mEq/L
   135 mEq/L
   26.4 %
   19.5 K/uL
        [image002.jpg]
                             [**2180-4-21**]  11:21 AM
                             [**2180-4-21**]  11:54 AM
                             [**2180-4-21**]  03:08 PM
                             [**2180-4-21**]  05:15 PM
                             [**2180-4-21**]  06:19 PM
                             [**2180-4-21**]  11:54 PM
                             [**2180-4-22**]  12:18 AM
                             [**2180-4-22**]  03:21 AM
                             [**2180-4-22**]  03:36 AM
                             [**2180-4-22**]  06:48 AM
   WBC
   19.5
   19.5
   20.5
   19.5
   Hct
   27.1
   27.2
   27.2
   26.4
   Plt
   82
   84
   63
   60
   Cr
   1.9
   1.9
   1.7
   1.6
   TCO2
   13
   15
   18
   27
   34
   30
   Glucose
   83
   274
   450
   579
   Other labs: PT / PTT / INR:57.8/84.8/6.8, ALT / AST:22/55, Alk Phos / T
   Bili:120/5.0, Amylase / Lipase:24/56, Differential-Neuts:84.4 %,
   Lymph:10.1 %, Mono:5.0 %, Eos:0.2 %, D-dimer:6085 ng/mL, Fibrinogen:114
   mg/dL, Lactic Acid:15.0 mmol/L, Albumin:1.6 g/dL, LDH:760 IU/L,
   Ca++:8.6 mg/dL, Mg++:1.5 mg/dL, PO4:1.4 mg/dL
   Assessment and Plan
   44 yo F with PMH of HTN, asthma and GI stromal tumor s/p multiple
   surgeries and prolonged hospitalizations here with lactic acidosis,
   oliguric renal failure and liver failure.
   # GIST: Received dose of Gleevec yesterday. Will continue with Gleevec.
    - f/up onc recs
   - f/up liver recs
   - f/up surgery recs
   - continue allopurinol
   - monitor labs tid
   # Shock: likely [**12-25**] inflammatory response with probable component of
   hypovolemia as albumin is 1.6 and she is most likely intravascularly
   dry from 3^rd spacing fluid.  However also concern for sepsis and she
   has numerous potential sources of infection including indwelling lines,
   recent surgery and intubation
   -          Transfuse 1UPRBCs
   -          Consider albumin for volume expander
   -          Pressors with neo, monitor for gut ischemia- follow lactate
   levels
   -          Add additional antibiotic coverage, see below
   -          Ck cultures
   -           Monitor HCTs to rule out hemorrhage
   -          Ck ECG to rule out MI
   # Acid/base status: This am with metabolic alkalosis [**12-25**] overcorrection
   with bicarb. Continues to have elevated lactate. Monitor lactate with
   hope to extubate patient once acidosis resolves.
   - Intubated  for hyperventilation
   - continue to trend lactates, lytes tid
   - Continue CVVH
   # Oliguric ARF: Patient continues on CVVH with improvement in lytes and
   creatinine.
    -Continue CVVH
   - F/u renal recs
   - Small fluid boluses for low BP as patient is volume overloaded and
   third spacing
    - continue to trend cr and monitor lytes with repletion PRN
   -renally dose meds
   # Thrombocytopenia: Low fibrinogen levels and mild elevation in fibrin
   split products raises concern for DIC. Day 5 of hospitalization and
   greater than 50% drop in platelet level puts this patient at moderate
   risk for HIT. Has other causes for low platelets however including ?
   infection and malignancy.  Concern for TTP. However, this is less
   likely as TTP normally does not cause prolongation of  PT/PTT.
   Platelets continue to trend down with rising INR and stable but low
   fibrinogen levels.
   -   monitor coags, fibrinogen, FDP
   -   F/u PF4 antibody
   -  Give cryoprecipitate if starts actively bleeding or Fibrinogen level
   drops below 100
   # Liver Failure: worsening INR and rising alk phos, T. Bilil
   -continue to trend LFTs/INR
   - f/up liver recs
    - hepatically dose meds
    # Leukocytosis: Bump in WBC to 20.4. Cultures sent.  Vanco trough this
   AM 15.
    -monitor WBC and fever curve
   - F/U cultures
   - Check vanco level
   - add meropenem and fluconazole
   - Continue IV flagyl and PO vanco for C. diff
   # Tachycardia. Unclear etiology. Patient with baseline sinus tach. HR
   remains up to 130s despite volume repletion.  [**Month (only) 60**] be secondary to
   underlying infection vs cytokine storm. Have been holding beta blocker
   but patient was tachycardic while on this med so doubt rebound
   tachycardia.
   - monitor on tele
   - infectious w/up as above.
   # Resp: Continuing hyperventilation to correct AG acidosis with plan to
   extubate once acidosis resolves. Started on CVVH which may expedite
   extubation. Oxygenating well.  Consider changing mode to pressure
   support in the hopes of weaning pt from vent once acidosis resolves..
   - Begin weaning from vent with PS
   - Decrease sedation as possible
   # C. diff: diagnosed with positive toxin in stool on [**2180-4-4**].  Repeat
   toxin negative
   - Ad PO vanco
   -Continue IV Flagyl
   .
   # Hypoglycemia. [**12-25**] to liver failure.  Started on TPN yesterday but
   patient with persistently low FS. Added D10 gtt back.
   - Decrease dextrose in TPN
   - Q2 finger sticks
   # h/o asthma: continue nebs prn
   # h/o HTN: currently not hypertensive. holding outpatient meds, can
   restart BB if BP tolerates.
   # Wound Care: As per surgery team, countinue wound vac.
    # FEN: On TPN. Bolus for hypotension, D/C D 10 gtt. On Insulin gtt for
   hyperglycemia. Continue fluid removal with CVVH as BP tolerates. Goal
   CVP greater than 6.
   # PPX: Pneumoboots;  she has IVC filter as well, PPI
   # Access: 2 PIVs, R triple lumen, A-line, temporary HD line
   # Code: full -confirmed with mother
   # COMM: [**Name (NI) 53**], Mother [**Name (NI) **] [**Name (NI) 2019**] [**Telephone/Fax (1) 2020**], [**Telephone/Fax (1) 2021**]; Brother
   [**Name (NI) 2022**] [**Name (NI) 2019**] [**Telephone/Fax (1) 2023**]
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2180-4-21**] 05:55 PM 52 mL/hour
   Glycemic Control:  Insulin infusion
   Lines:
   18 Gauge - [**2180-4-17**] 02:30 AM
   Multi Lumen - [**2180-4-18**] 09:13 PM
   Arterial Line - [**2180-4-19**] 01:36 AM
   Dialysis Catheter - [**2180-4-20**] 04:30 PM
   Prophylaxis:
   DVT: Boots, IVC filter
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2180-04-22 09:53:00 Physician Attending Progress Note
Chief Complaint: multiple organ system failure and tumor lysis syndrome
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Dose of Gleevec
   [**Doctor First Name **]/onc multidisciplinary meeting
   Difficult-to-control hyperglycemia
   Patient unable to provide history: Sedated, Unresponsive
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2180-4-20**] 04:44 PM
   Vancomycin - [**2180-4-21**] 05:00 PM
   Metronidazole - [**2180-4-22**] 01:17 AM
   Infusions:
   Insulin - Regular - 6 units/hour
   Other ICU medications:
   Fentanyl - [**2180-4-21**] 11:00 PM
   Midazolam (Versed) - [**2180-4-22**] 03:07 AM
   Insulin - Regular - [**2180-4-22**] 04:30 AM
   Other medications:
   PPI, vanco oral, allopurinol, Flagyl q8, thiamine 100mg IV daily, CHG,
   Gleevec, insulin @ 8
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2180-4-22**] 09:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.9
C (96.7
   Tcurrent: 35.8
C (96.4
   HR: 132 (118 - 137) bpm
   BP: 97/41(54) {96/37(50) - 124/63(76)} mmHg
   RR: 23 (17 - 28) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 61 Inch
   CVP: 9 (4 - 13)mmHg
   Total In:
                                                                  3,870 mL
                                                                  2,428 mL
   PO:
   TF:
   IVF:
                                                                  2,579 mL
                                                                  1,897 mL
   Blood products:
   Total out:
                                                                  4,221 mL
                                                                  2,061 mL
   Urine:
                                                                    119 mL
                                                                    303 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -351 mL
                                                                    367 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 500) mL
   Vt (Spontaneous): 233 (233 - 233) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 113
   PIP: 25 cmH2O
   Plateau: 20 cmH2O
   SpO2: 100%
   ABG: 7.53/35/107/26/7
   Ve: 11.4 L/min
   PaO2 / FiO2: 357
   Physical Examination
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly)
   Abdominal: No(t) Soft, abdomen is very firm
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: Responds to: Noxious stimuli, Movement: Not assessed, Tone:
   Normal
   Labs / Radiology
   8.2 g/dL
   60 K/uL
   391 mg/dL
   1.5 mg/dL
   26 mEq/L
   3.1 mEq/L
   9 mg/dL
   86 mEq/L
   139 mEq/L
   26.4 %
   19.5 K/uL
        [image002.jpg]
                             [**2180-4-21**]  11:54 AM
                             [**2180-4-21**]  03:08 PM
                             [**2180-4-21**]  05:15 PM
                             [**2180-4-21**]  06:19 PM
                             [**2180-4-21**]  11:54 PM
                             [**2180-4-22**]  12:18 AM
                             [**2180-4-22**]  03:21 AM
                             [**2180-4-22**]  03:36 AM
                             [**2180-4-22**]  06:30 AM
                             [**2180-4-22**]  06:48 AM
   WBC
   19.5
   20.5
   19.5
   Hct
   27.2
   27.2
   26.4
   Plt
   84
   63
   60
   Cr
   1.9
   1.7
   1.6
   1.5
   TCO2
   13
   15
   18
   27
   34
   30
   Glucose
   274
   450
   579
   391
   Other labs: PT / PTT / INR:57.8/84.8/6.8, ALT / AST:22/55, Alk Phos / T
   Bili:120/5.0, Amylase / Lipase:24/56, Differential-Neuts:84.4 %,
   Lymph:10.1 %, Mono:5.0 %, Eos:0.2 %, D-dimer:5829 ng/mL, Fibrinogen:114
   mg/dL, Lactic Acid:15.0 mmol/L, Albumin:1.6 g/dL, LDH:760 IU/L,
   Ca++:8.8 mg/dL, Mg++:1.5 mg/dL, PO4:0.9 mg/dL
   Assessment and Plan
   44-year-old woman with multiple organ system failure in the setting of
   a very large and aggressive GI stromal tumor.
   GI STROMAL TUMOR
   -          receiving Gleevec.  Risks and benefits discussed with family
   by oncology.
   SHOCK
   -          likely hypovolemic (CVP probably artifactually high given
   abdominal pressures)
   -          will transfuse given low Hct and hypovolemia
   -          no clear evidence for infection at this point, but she is
   high risk
   o         check all cultures
   o         add broad-spectrum antibiotics until cx negative x 72h
   (Tuesday)
   o         continue C diff coverage
   -          check random cortisol since she is at substantial risk for
   adrenal dysfunction due to abdominal process
   RENAL FAILURE
   -          on CVVH
   LACTIC ACIDOSIS
   - likely related to tumor and hypoperfusion
   - increase thiamine dose
   THROMBOCYTOPENIA
   -          follow PF4 antibody.  If (+), change line.
   -          discuss with onc/heme
   -          transfuse for bleeding or plt < 20
   HEPATIC FAILURE
   -          appreciate hepatology
s help
   -          dose meds appropriately
   COAGULOPATHY
   -          discuss with onc/heme
   -          transfuse factors for bleeding
   Follow labs frequently for multiple issues (tumor necrosis,
   coagulopathy, etc.)
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2180-4-21**] 05:55 PM 52 mL/hour
   Glycemic Control:  on insulin drip
   Lines:
   18 Gauge - [**2180-4-17**] 02:30 AM
   Multi Lumen - [**2180-4-18**] 09:13 PM
   Arterial Line - [**2180-4-19**] 01:36 AM
   Dialysis Catheter - [**2180-4-20**] 04:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments: RSBI is 113
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent:  50 minues
   Patient is critically ill
   ------ Protected Section ------
   CRITICAL CARE STAFF ADDENDUM
   6p
   Some difficulties with dialysis catheter leading to holding CVVH.
   Episode of Sats decreased to 90-93% (with confirmatory pO2)
   Also worse hypotension now back on neo.  Appears to have substantial
   pulse pressure variation on arterial line tracing.
   We will
   1)       check CXR to exclude PTX
   2)       check EKG to exclude large MI
   3)       consult Heme: would we anticoagulate if we found a PE?
   4)       If yes (and EKG and CXR not diagnostic)
 image for PE
   5)       Volume challenge (given large pulse pressure variation)
   30 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 149**] [**Last Name (NamePattern1) 832**], MD
   on:[**2180-4-22**] 18:16 ------

2180-04-23 05:33:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2180-4-22**] 05:59 PM
   Worsening DIC-- drop in platelets and fibrinogen, rising coags
   Hypophosphatemic- concern for refeeding syndrome
   Hypoglycemic- started D10 gtt
   Became acutely hypoxic- concern for PE, however likely secondary to
   mucus plugging. Per heme/onc would not consider anticoagulation given
   her current coagulopathy.Felt low likelihood that picture secondary to
   HIT.
   Developed cyanotic 1st and 2nd fingers on left hand- ? [**12-25**] levophed vs
   DIC vs HIT. Changed levo to neo.
   Hypotensive with MAPS hovering around 60. Given NS fluid bolus followed
   by albumin. Increased neo.
   continued on CVVH
   Had familly meeting to discuss goals of care. Code status changed to
   DNR.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2180-4-20**] 04:44 PM
   Fluconazole - [**2180-4-22**] 03:13 PM
   Meropenem - [**2180-4-22**] 07:26 PM
   Vancomycin - [**2180-4-22**] 07:37 PM
   Metronidazole - [**2180-4-23**] 02:27 AM
   Infusions:
   Phenylephrine - 0.5 mcg/Kg/min
   Other ICU medications:
   Dextrose 50% - [**2180-4-22**] 11:45 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2180-4-23**] 05:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.6
C (99.6
   HR: 137 (111 - 155) bpm
   BP: 93/62(68) {77/34(45) - 131/72(82)} mmHg
   RR: 30 (19 - 31) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 61 Inch
    CVP: 18 (8 - 18)mmHg
   Bladder pressure: 30 (30 - 30) mmHg
                                Total In:
                                                                  8,698 mL
                                                                  1,049 mL
   PO:
                                TF:
   IVF:
                                                                  6,544 mL
                                                                    676 mL
   Blood products:
                                                                    375 mL
                                                                    100 mL
   Total out:
                                                                  4,387 mL
                                                                  1,272 mL
   Urine:
                                                                    417 mL
                                                                     30 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,311 mL
                                                                   -223 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 60%
   PIP: 29 cmH2O
   Plateau: 26 cmH2O
   SpO2: 99%
   ABG: 7.47/41/141/24/6
   Ve: 11.9 L/min
   PaO2 / FiO2: 235
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present),
   cyanotic, cool 1st and 2nd fingers on left
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: No(t) Soft, Wound vac in place
   Extremities: Right: 2+, Left: 2+
   Skin:  Cool
   Neurologic: Responds to: Noxious stimuli, Movement: Non -purposeful,
   Tone: Normal
   Labs / Radiology
   51 K/uL
   9.2 g/dL
   112 mg/dL
   1.3 mg/dL
   24 mEq/L
   5.1 mEq/L
   9 mg/dL
   98 mEq/L
   139 mEq/L
   29.2 %
   22.0 K/uL
        [image002.jpg]
                             [**2180-4-22**]  06:30 AM
                             [**2180-4-22**]  06:48 AM
                             [**2180-4-22**]  11:21 AM
                             [**2180-4-22**]  11:38 AM
                             [**2180-4-22**]  02:00 PM
                             [**2180-4-22**]  05:43 PM
                             [**2180-4-22**]  05:55 PM
                             [**2180-4-22**]  09:39 PM
                             [**2180-4-22**]  11:35 PM
                             [**2180-4-23**]  01:49 AM
   WBC
   20.5
   22.0
   Hct
   32.0
   29.2
   Plt
   55
   41
   51
   Cr
   1.5
   1.1
   1.2
   1.3
   TCO2
   30
   26
   28
   31
   Glucose
   391
   161
   109
   54
   112
   Other labs: PT / PTT / INR:55.6/93.1/6.5, CK / CKMB / Troponin-T:54//,
   ALT / AST:22/55, Alk Phos / T Bili:120/5.0, Amylase / Lipase:24/56,
   Differential-Neuts:84.4 %, Lymph:10.1 %, Mono:5.0 %, Eos:0.2 %,
   D-dimer:6816 ng/mL, Fibrinogen:68 mg/dL, Lactic Acid:9.6 mmol/L,
   Albumin:1.6 g/dL, LDH:968 IU/L, Ca++:8.3 mg/dL, Mg++:1.7 mg/dL, PO4:1.6
   mg/dL
   Assessment and Plan
   44 yo F with PMH of HTN, asthma and GI stromal tumor s/p multiple
   surgeries and prolonged hospitalizations here with lactic acidosis,
   oliguric renal failure and liver failure.
   # GIST: Received dose of Gleevec yesterday. Will hold on further
   Gleevec per Onc given critical condition.
   - Hold Gleevec
   - f/up onc recs
   - f/up liver recs
   - f/up surgery recs
   - continue allopurinol
   - monitor labs tid
   # Shock: likely [**12-25**] inflammatory response with probable component of
   hypovolemia as albumin is 1.6 and she is intravascularly dry from 3rd
   spacing fluid.  However also concern for sepsis and she has numerous
   potential sources of infection including indwelling lines, recent
   surgery and intubation.  Also concern for cardiogenic shock with
   elevateed PCW pressure and pulsus paradoxicus. Given coagulopathy, she
   may have bled into her pericardium. Given PRBCs, IVFs and albumin last
   night with temporary improvement in BP. Now on max dose of neo with low
   MAP of 55-60.  Transiently on levophed but developed cyanotic fingers
   so switched back to neo. Also became more tachycardic (150-160s).
   -          Continue IVFs PRN
   -          Pressors with neo unless change goals of care to comfort
   measures
   -          Continue empiric antibiotic coverage
   -         Monitor HCTs to rule out hemorrhage
   -          consider adding vasopressin as second pressor
   -          STAT Echo to rule out tamponade
   # Acid/base status: Metabolic and respiratory alkalosis. Also continues
   to have elevated lactate (now 9) and anion gap. Diff of respiratory
   alkalosis includes liver dysfunction, sepsis, primary, primary CHS
   problem, anxiety and pain. Patient not stable to evaluate for PE or CNS
   bleed at this time. Would not anticoagulate [**12-25**] coagulopathy and DIC.
   - Intubated  for hyperventilation
   - continue to trend lactates, lytes tid
   - Continue CVVH
   # Oliguric ARF: Patient continues on CVVH with improvement in lytes and
   creatinine.
   -Continue CVVH
   - F/u renal recs
   - continue to trend cr and monitor lytes with repletion PRN
   - renally dose meds
   # DIC/Thrombocytopenia:  Decreasing fibrinogen levels and elevation in
   fibrin split likely [**12-25**] DIC. Day 5 of hospitalization and greater than
   50% drop in platelet level puts this patient at moderate risk for HIT.
   Has other causes for low platelets however including ? infection and
   malignancy.  Concern for TTP. However, this is less likely as TTP
   normally does not cause prolongation of  PT/PTT. Platelets continue to
   trend down with rising INR. Also with cyanotic fingers on left hand.
   Concern that this is secondary to clotting. Per heme/onc would not
   manipulate clotting cascade in this patient with anticoagulation. Will
   also not replete fibrinogen unless actively bleeding.
   -  monitor coags, fibrinogen, FDP
   - monitor HCT
   -  F/u PF4 antibody
   -  Give cryoprecipitate if starts actively bleeding with goal of
   fibrinogen greater than 100
   - transfuse platelets if less than 30.
   # Liver Failure: worsening INR and rising alk phos, T. Bilil 9.2 today.
   -continue to trend LFTs/INR
   - f/up liver recs
    - hepatically dose meds
    # Leukocytosis: Bump in WBC to 22.4. Cultures sent.
    -monitor WBC and fever curve
   - F/U cultures
   - Check vanco level
   - add meropenem and fluconazole
   - Continue IV flagyl and PO vanco for C. diff
   # Tachycardia. Unclear etiology. Patient with baseline sinus tach. HR
   remains up to 130s despite volume repletion.  [**Month (only) 60**] be secondary to
   underlying infection vs cytokine storm. Have been holding beta blocker
   but patient was tachycardic while on this med so doubt rebound
   tachycardia.
   - monitor on tele
   - infectious w/up as above.
   # Resp/ARDS: now with bilateral infiltrates on CXR and hypoxemia
   consistent with ARDS. Will decrease TV as have demonstrated a reduction
   in mortality in patient with ARDS.
   - follow sats and ABGs
   # C. diff: diagnosed with positive toxin in stool on [**2180-4-4**].  Repeat
   toxin negative
   - IV flagyl
   - Continue PO vanco
   # Hypoglycemia. [**12-25**] to liver failure.  Persistently low FS. Added D10
   gtt despite receiving dextrose in fluids.
   - Decrease dextrose in TPN
   - Q2 finger sticks
   # h/o asthma: continue nebs prn
   # h/o HTN: currently not hypertensive. holding outpatient meds, can
   restart BB if BP tolerates.
   # Wound Care: As per surgery team, countinue wound vac.
    # FEN: On TPN. Bolus for hypotension, Continue D 10 gtt for low FS.
   Continue fluid removal with CVVH as BP tolerates. Goal CVP greater than
   6.
   # PPX: Pneumoboots;  she has IVC filter as well, PPI
   # Access: 2 PIVs, R triple lumen, A-line, temporary HD line
   # Code: DNR confirmed with mother
   # COMM: [**Name (NI) 53**], Mother [**Name (NI) **] [**Name (NI) 2019**] [**Telephone/Fax (1) 2020**], [**Telephone/Fax (1) 2021**]; Brother
   [**Name (NI) 2022**] [**Name (NI) 2019**] [**Telephone/Fax (1) 2023**]
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2180-4-22**] 05:43 PM 52 mL/hour
   Glycemic Control:  Comments: D10 gtt
   Lines:
   Multi Lumen - [**2180-4-18**] 09:13 PM
   Arterial Line - [**2180-4-19**] 01:36 AM
   Dialysis Catheter - [**2180-4-20**] 04:30 PM
   Prophylaxis:
   DVT: Boots, IVC filter(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2180-04-23 09:30:00 Physician Attending Progress Note
Chief Complaint: multiple organ-system failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Worsening shock, respiratory status, and DIC
   Two fingers of hand cyanotic
   Multiple vasopressor adjustments
   Discussion with hematology about DIC status --> recommend neither
   anticoagulation nor factors.
   Discussions with family --> DNR
   Patient unable to provide history: Unresponsive
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2180-4-20**] 04:44 PM
   Fluconazole - [**2180-4-22**] 03:13 PM
   Metronidazole - [**2180-4-23**] 02:27 AM
   Meropenem - [**2180-4-23**] 04:00 AM
   Vancomycin - [**2180-4-23**] 04:00 AM
   Infusions:
   Phenylephrine - 4 mcg/Kg/min
   Norepinephrine - 0.2 mcg/Kg/min
   Other ICU medications:
   Dextrose 50% - [**2180-4-22**] 11:45 PM
   Other medications:
   PPI, vanco oral, allopurinol, Flagyl, CHG, Gleevec daily, thiamine
   twice a day, meropenem, fluconazole,
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2180-4-23**] 09:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.2
C (97.1
   HR: 129 (111 - 155) bpm
   BP: 60/52(56) {60/39(45) - 126/76(97)} mmHg
   RR: 34 (19 - 35) insp/min
   SpO2: 78%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 61 Inch
   CVP: 21 (8 - 23)mmHg
   Bladder pressure: 15 (15 - 30) mmHg
                               Total In:
                                                                  8,698 mL
                                                                  2,970 mL
   PO:
                               TF:
   IVF:
                                                                  6,544 mL
                                                                  2,420 mL
   Blood products:
                                                                    375 mL
                                                                    100 mL
   Total out:
                                                                  4,387 mL
                                                                  2,164 mL
   Urine:
                                                                    417 mL
                                                                     54 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,311 mL
                                                                    806 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 70%
   PIP: 34 cmH2O
   Plateau: 30 cmH2O
   SpO2: 78%
   ABG: 7.38/27/152/13/-7
   Ve: 15.6 L/min
   PaO2 / FiO2: 217
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : anteriorly)
   Abdominal: firm abdomen
   Extremities: Right: 1+, Left: 1+, Cyanosis, cyanosis of several fingers
   and slightly toes
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.7 g/dL
   50 K/uL
   144 mg/dL
   1.2 mg/dL
   13 mEq/L
   5.1 mEq/L
   9 mg/dL
   101 mEq/L
   137 mEq/L
   27.0 %
   22.5 K/uL
        [image002.jpg]
                             [**2180-4-22**]  11:21 AM
                             [**2180-4-22**]  11:38 AM
                             [**2180-4-22**]  02:00 PM
                             [**2180-4-22**]  05:43 PM
                             [**2180-4-22**]  05:55 PM
                             [**2180-4-22**]  09:39 PM
                             [**2180-4-22**]  11:35 PM
                             [**2180-4-23**]  01:49 AM
                             [**2180-4-23**]  06:45 AM
                             [**2180-4-23**]  08:06 AM
   WBC
   20.5
   22.0
   22.5
   Hct
   32.0
   29.2
   27.0
   Plt
   55
   41
   51
   50
   Cr
   1.1
   1.2
   1.3
   1.2
   TCO2
   26
   28
   31
   17
   Glucose
   161
   109
   54
   112
   144
   Other labs: PT / PTT / INR:57.4/122.1/6.7, CK / CKMB / Troponin-T:54//,
   ALT / AST:15/84, Alk Phos / T Bili:148/9.2, Amylase / Lipase:24/56,
   Differential-Neuts:84.4 %, Lymph:10.1 %, Mono:5.0 %, Eos:0.2 %,
   D-dimer:6816 ng/mL, Fibrinogen:62 mg/dL, Lactic Acid:10.8 mmol/L,
   Albumin:1.9 g/dL, LDH:1272 IU/L, Ca++:8.0 mg/dL, Mg++:1.8 mg/dL,
   PO4:2.0 mg/dL
   Imaging: CXR: increased left lung opacity
   Microbiology:
   GRAM STAIN (Final [**2180-4-22**]):
         [**9-16**] PMNs and >10 epithelial cells/100X field.
         Gram stain indicates extensive contamination with upper
   respiratory
         secretions. Bacterial culture results are invalid.
         PLEASE SUBMIT ANOTHER SPECIMEN.
      RESPIRATORY CULTURE (Final [**2180-4-22**]):
         TEST CANCELLED, PATIENT CREDITED
   Assessment and Plan
   44-year-old woman with multiple organ system failure in the setting of
   a very large and aggressive GI stromal tumor.
   GI STROMAL TUMOR
   -          received Gleevec.
   -          Holding Gleevec
   SHOCK
   -          Etiology is uncertain
   -          Check ScVO2 and consider dobutamine
   -          Add vasopressin if systemic pressure falls
   -          Check echo to exclude tamponade
   -          Cortisol adequately excludes absolute adrenal insufficiency
   -          Resend sputum culture
   RESPIRATORY FAILURE
   -          now meets criteria for ARDS
   -          ventilate per ARDSnet
   RENAL FAILURE
   -          discuss resuming CVVH with renal
   -          dose meds renally
   LACTIC ACIDOSIS
   - likely related to tumor and hypoperfusion. Somewhat stable
   THROMBOCYTOPENIA
   - follow PF4 antibody. If (+), change line.
   - appreciate hematology/oncology
s help
   - transfuse for bleeding or plt < 20
   HEPATIC FAILURE
   - appreciate hepatology
s help
   - dose meds appropriately
   DIC / COAGULOPATHY / CYANOSIS
   -          Likely secondary to tissue factor being exposed with tumor
   -          discuss with onc/heme
   -          transfuse factors for bleeding
   -          Follow labs frequently for multiple issues (tumor necrosis,
   coagulopathy, etc.)
   -          Check bedside ultrasound of right radial artery.  If
   reasonable, resite arterial line.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2180-4-22**] 05:43 PM 52 mL/hour
   Glycemic Control:  Insulin infusion
   Lines:
   Multi Lumen - [**2180-4-18**] 09:13 PM
   Arterial Line - [**2180-4-19**] 01:36 AM
   Dialysis Catheter - [**2180-4-20**] 04:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , issues
   and poor prognosis discussed with family overnight and this morning
   Comments: Discussed
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 50 minutes
   Patient is critically ill